* Z:\mnt\design.r\spice\examples\3082.asc
XU1 MP_01 N001 OUT MP_02 IN LT3082
V1 IN 0 9
C1 N001 0 .1µ
R1 N001 0 500K
C2 OUT 0 2.2µ
Rload OUT 0 25
.tran .5 startup
.lib LT3082.sub
.backanno
.end
